datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CNCC(C)C[NH:10]C.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CNCC(C)C[NH+:10](C)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CCCC(=O)C(CC[N:10]1CCOCC1)(c1ccccc1)c1ccccc1.O=C([O-])c1ccc([O:21][H:20])c([N+](=O)[O-])c1>>CCCC(=O)C(CC[N+:10]1([H:20])CCOCC1)(c1ccccc1)c1ccccc1.O=C([O-])c1ccc([O-:21])c([N+](=O)[O-])c1 10=20;20,21=21",
"CCC(Oc1ccccc1C)C(=O)[O:21][H:20].[O-]c1cc([O-:10])nc[nH+]1>>CCC(Oc1ccccc1C)C(=O)[O-:21].[O-]c1cc([O:10][H:20])nc[nH+]1 10=20;20,21=21",
"C=CC(=O)[O:21][H:20].[O-]c1ccccc1/C=N/[O-:10]>>C=CC(=O)[O-:21].[O-]c1ccccc1/C=N/[O:10][H:20] 10=20;20,21=21",
"CCOC(=O)Cc1cccc[n:10]1.CC[N+:21](CC)(c1ccccc1)[H:20]>>CCOC(=O)Cc1cccc[n+:10]1[H:20].CC[N:21](CC)c1ccccc1 10=20;20,21=21",
"CCCC[N:10]1CCCCC1.CNc1cc[n+](C)c([O-])[n+:21]1[H:20]>>CCCC[N+:10]1([H:20])CCCCC1.CNc1cc[n+](C)c([O-])[n:21]1 10=20;20,21=21",
"CC[N:10]1[C@@H](C)[C@@H]1C.O=C([C@@H]1O[C@H](Oc2ccc3[nH+]c(O)ccc3c2)[C@@H](O)[C@H](O)[C@H]1O)[O:21][H:20]>>CC[N+:10]1([H:20])[C@@H](C)[C@@H]1C.O=C([C@@H]1O[C@H](Oc2ccc3[nH+]c(O)ccc3c2)[C@@H](O)[C@H](O)[C@H]1O)[O-:21] 10=20;20,21=21",
"CSc1cc2ccccc2c[n:10]1.c1ccc(C2=[N+:21]([H:20])c3ccccc3CO2)cc1>>CSc1cc2ccccc2c[n+:10]1[H:20].c1ccc(C2=[N:21]c3ccccc3CO2)cc1 10=20;20,21=21",
"Cc1ccc([O:21][H:20])c([O-])c1.O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1cccnc1>>Cc1ccc([O-:21])c([O-])c1.O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1cccnc1)[H:20] 10=20;20,21=21",
"NC(=O)c1ccc(N)cc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NC(=O)c1ccc(N)cc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCc1ccc(O)c(C[N+:21](C)(C)[H:20])c1.NCC(=O)C[NH2:10]>>CCc1ccc(O)c(C[N:21](C)C)c1.NCC(=O)C[NH2+:10][H:20] 10=20;20,21=21",
"C[NH:10]CCCN.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[NH+:10](CCCN)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCCCCC[N:10](CCCCCC)c1ccccc1.Oc1ccccc1C=[N+:21](O)[H:20]>>CCCCCC[N+:10](CCCCCC)(c1ccccc1)[H:20].Oc1ccccc1C=[N:21]O 10=20;20,21=21",
"Cc1[nH]c(CO)[n:10]c1C.O=Nc1ccc([O:21][H:20])cc1>>Cc1[nH]c(CO)[n+:10]([H:20])c1C.O=Nc1ccc([O-:21])cc1 10=20;20,21=21",
"CC(P)C(=O)[O:21][H:20].CC/C=C/Cc1n(C(C(=O)[O-])C(C)(C)S)cc(C(=O)[O-])[n:10]1>>CC(P)C(=O)[O-:21].CC/C=C/Cc1n(C(C(=O)[O-])C(C)(C)S)cc(C(=O)[O-])[n+:10]1[H:20] 10=20;20,21=21",
"CC1CC[N+:21](c2cc[nH+]cc2)([H:20])CC1.O=C(c1ccccc1CO)[O-:10]>>CC1CC[N:21](c2cc[nH+]cc2)CC1.O=C(c1ccccc1CO)[O:10][H:20] 10=20;20,21=21",
"C[NH:10]CCC(=O)c1ccccc1.O=C([C@H]1C[C@@H]1c1cccc([N+](=O)[O-])c1)[O:21][H:20]>>C[NH+:10](CCC(=O)c1ccccc1)[H:20].O=C([C@H]1C[C@@H]1c1cccc([N+](=O)[O-])c1)[O-:21] 10=20;20,21=21",
"C=C(C)C(=O)OCCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C=C(C)C(=O)OCCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"COc1ccc2nccc(C(O)C3CCCC[NH:10]3)c2c1.Cc1c[n+:21]([H:20])c([C@@H](O)[C@H](O)[C@H](O)CO)cn1>>COc1ccc2nccc(C(O)C3CCCC[NH+:10]3[H:20])c2c1.Cc1c[n:21]c([C@@H](O)[C@H](O)[C@H](O)CO)cn1 10=20;20,21=21",
"CCSC(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])=C1>>CCSC(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)=C1 10=20;20,21=21",
"CS(=O)c1cccc([O-:10])c1.O=[N+]([O-])/C=C/c1ccc([O:21][H:20])cc1>>CS(=O)c1cccc([O:10][H:20])c1.O=[N+]([O-])/C=C/c1ccc([O-:21])cc1 10=20;20,21=21",
"C[C@@H]1CCC[C@H](C)[NH:10]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[C@@H]1CCC[C@H](C)[NH+:10]1[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[NH+](C)CC(C)(C)C[NH2+:21][H:20].Cc1cn[n:10]c(C)c1>>C[NH+](C)CC(C)(C)C[NH2:21].Cc1cn[n+:10]([H:20])c(C)c1 10=20;20,21=21",
"CC1(C)CCC(=O)N1[O:21][H:20].Cc1ccc(C(C)C)cc1[O-:10]>>CC1(C)CCC(=O)N1[O-:21].Cc1ccc(C(C)C)cc1[O:10][H:20] 10=20;20,21=21",
"Cc1cc(/N=N/c2ccc(S(=O)(=O)[NH-:10])cc2)cc(C(=O)[O-])c1O.Nc1cccc2c1cc1ccccc1[n+:21]2[H:20]>>Cc1cc(/N=N/c2ccc(S(=O)(=O)[NH:10][H:20])cc2)cc(C(=O)[O-])c1O.Nc1cccc2c1cc1ccccc1[n:21]2 10=20;20,21=21",
"C1=C[N:10]2CCC1CC2.CC(C)(C)CC(C)(C)[NH2+:21][H:20]>>C1=C[N+:10]2([H:20])CCC1CC2.CC(C)(C)CC(C)(C)[NH2:21] 10=20;20,21=21",
"COc1cc2c(cc1OC)[C@]13CC[N+:21]4([H:20])CC5=CCO[C@@H]6CC(=O)N2[C@@H]1[C@@H]6[C@@H]5C[C@H]34.O=C(c1csc(Br)c1)[O-:10]>>COc1cc2c(cc1OC)[C@]13CC[N:21]4CC5=CCO[C@@H]6CC(=O)N2[C@@H]1[C@@H]6[C@@H]5C[C@H]34.O=C(c1csc(Br)c1)[O:10][H:20] 10=20;20,21=21",
"CC1(C)CC(=O)C(=N[O:21][H:20])C(=O)C1.CCOCCn1c(CN2CCC[N:10](CCCCn3cc(C(=O)[O-])cn3)CC2)nc2ccccc21>>CC1(C)CC(=O)C(=N[O-:21])C(=O)C1.CCOCCn1c(CN2CCC[N+:10](CCCCn3cc(C(=O)[O-])cn3)([H:20])CC2)nc2ccccc21 10=20;20,21=21",
"Nc1nc[nH+]c2c1[n:10]cn2CCOCP(=O)(O)O.O=C(N/N=C/c1ccccc1O)c1cc[n+:21]([H:20])cc1>>Nc1nc[nH+]c2c1[n+:10]([H:20])cn2CCOCP(=O)(O)O.O=C(N/N=C/c1ccccc1O)c1cc[n:21]cc1 10=20;20,21=21",
"C[Si](C)(C)c1ccc([NH2:10])cc1.OC[C@@H]1O[C@H]([n+]2ccc(NO)nc2[O:21][H:20])[C@@H](O)[C@H]1O>>C[Si](C)(C)c1ccc([NH2+:10][H:20])cc1.OC[C@@H]1O[C@H]([n+]2ccc(NO)nc2[O-:21])[C@@H](O)[C@H]1O 10=20;20,21=21",
"CCNc1nc[n:10]c2[nH]ncc12.c1ccc2c(c1)cc1ccccc1[n+:21]2[H:20]>>CCNc1nc[n+:10]([H:20])c2[nH]ncc12.c1ccc2c(c1)cc1ccccc1[n:21]2 10=20;20,21=21",
